US09302991B2
<Step-2>:(R)—N-(1-(3-(difluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 56% yield (0.53 g, colorless oil) from 1-(3-(difluoromethyl)phenyl)ethanone (0.58 g, 3.41 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-(difluoromethyl)phenyl)ethanone | 3.41 mmol, 0.58 g | FC(C=1C=C(C=CC1)C(C)=O)F | C9H8F2O
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(3-(difluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 56% yield | FC(C=1C=C(C=CC1)C(C)N[S@](=O)C(C)(C)C)F | C13H19F2NOS
